US04612317
Benzyl (3R)-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate:
(3R)-3-Hydroxymethyl-1,2,3,4-tetrahydro-β-carboline (1.01 g) is dissolved in 70% ethanol (20 ml), and thereto is added dropwise 2N KOH (2.5 ml) and is further added CS2 (0.30 ml). The mixture is stirred at room temperature for 30 minutes, and thereto is added dropwise benzyl bromide (0.86 g). The mixture is stirred at room temperature for 4 hours and distilled to remove the solvent. The residue is dissolved in ethyl acetate, and the solution is washed with 10% HCl and water in order, dried over sodium sulfate, and distilled to remove the solvent. The residue is purified with silica gel column chromatography (solvent: CHCl3 :methanol=10:1) to give the title compound (1.29 g, 70%) as white powder, [α]D20 -117.3° (c=0.99, methanol). NMR (CDCl3,δ): 4.58 (s, 2H, CSSCH2C6H5), Mass m/e: 368 (M+), 244 (M+ --C6H5CH2SH).

reactant | (3R)-3-Hydroxymethyl-1,2,3,4-tetrahydro-β-carboline | 1.01 g | OC[C@@H]1NCC=2NC3=CC=CC=C3C2C1 | C12H14N2O
reactant | KOH | 2N, 2.5 ml | [OH-].[K+]
reactant | CS2 | 0.30 ml | C(=S)=S | CS2
reactant | benzyl bromide | 0.86 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Benzyl (3R)-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate | 1.29 g, 70% | OC[C@@H]1N(CC=2NC3=CC=CC=C3C2C1)C(=S)SCC1=CC=CC=C1 | C20H20N2OS2
